US07645757B2
3.1. 5-(naphth-1-yl)pent-4-yn-1-ol
A solution of 0.59 g (7 mmol) of 4-pentyn-1-ol in 3 ml of acetonitrile is added dropwise under an argon atmosphere to a suspension of 1.78 g (7 mmol) of 1-iodonaphthalene, of 1.48 ml (10.5 mmol) of triethylamine, of 0.066 g (0.35 mmol) of cuprous iodide and of 0.147 g (0.21 mmol) of di(triphenylphosphine)palladium dichloride (Ph3P)2PdCl2 in 4 ml of acetonitrile. The mixture is stirred at ambient temperature for 3 hours, 4 g of silica are then added and the mixture is evaporated to dryness. The product is purified by chromatography on silica gel, elution being carried out with an 80/20 and then 60/40 mixture of cyclohexane and of ethyl acetate, to produce 1.22 g of product in the form of a yellow oil.

reactant | 4-pentyn-1-ol | 7 mmol, 0.59 g | C(CCC#C)O | C5H8O
reactant | 1-iodonaphthalene | 7 mmol, 1.78 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | triethylamine | 10.5 mmol, 1.48 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 5-(naphth-1-yl)pent-4-yn-1-ol | 1.22 g | C1(=CC=CC2=CC=CC=C12)C#CCCCO | C15H14O
